US07557131B2
Preparation 70: 4-Hydroxy-3-methylbenzonitrile
A mixture of 4-hydroxy-3-methylbenzaldehyde (530 mg, 3.91 mmol) and hydroxyl ammonium chloride (406 mg, 5.81 mmol) in acetic acid (5 mL) was heated under reflux for 90 minutes. The cooled reaction mixture was then diluted with diethyl ether (30 mL) and washed with water (30 mL). The combined organic solution was washed with brine, dried over magnesium sulfate, concentrated in vacuo and the residue was purified by column chromatography on silica gel, eluting with dichloromethane:methanol, 100:0 to 97.5:2.5, to afford the title compound as a pale yellow oil in 66% yield, 345 mg.

reactant | 4-hydroxy-3-methylbenzaldehyde | 3.91 mmol, 530 mg | OC1=C(C=C(C=O)C=C1)C | C8H8O2
reactant | hydroxyl ammonium chloride | 5.81 mmol, 406 mg | [Cl-].O[NH3+]
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
solvent | diethyl ether | 30 mL | C(C)OCC | C4H10O
product | 4-Hydroxy-3-methylbenzonitrile | 66% yield | OC1=C(C=C(C#N)C=C1)C | C8H7NO
